US05763460
Cyclohexanecarboxylic acid (R)-{1-methyl-2[4-(1-oxo-thiophen-2-yl)1,2,3,6-tetrahydropyrid-1-yl]-ethyl}-(pyrid-2-yl)-amide
The title compound was prepared from cyclohexanecarboxylic acid (R)-[1-methyl-2-(4-thiophen-2-yl-3,6-dihydro-2H-pyrid-1-yl)-ethyl]-(pyrid-2-yl)-amide dihydrochloride (1.5 g, 3.6 mmol) and meta-chloroperbenzoic acid (0.632 g, 3.6 mmol) to yield 0.7 g of the title compound as the 1.8 hydrochloride, m.p. 109°-11° C.

reactant | cyclohexanecarboxylic acid (R)-[1-methyl-2-(4-thiophen-2-yl-3,6-dihydro-2H-pyrid-1-yl)-ethyl]-(pyrid-2-yl)-amide dihydrochloride | 3.6 mmol, 1.5 g | Cl.Cl.C[C@H](CN1CCC(=CC1)C=1SC=CC1)N(C(=O)C1CCCCC1)C1=NC=CC=C1
reactant | meta-chloroperbenzoic acid | 3.6 mmol, 0.632 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | hydrochloride | Cl | ClH
product | Cyclohexanecarboxylic acid (R)-{1-methyl-2[4-(1-oxo-thiophen-2-yl)1,2,3,6-tetrahydropyrid-1-yl]-ethyl}-(pyrid-2-yl)-amide | 0.7 g | C[C@H](CN1CCC(=CC1)C=1S(C=CC1)=O)N(C(=O)C1CCCCC1)C1=NC=CC=C1 | C24H31N3O2S
